US08202885B2
A solution of 1 g of benzil, 1.01 g of methyl 4,4-dimethoxybutyrate and 2.87 g of ammonium acetate in 23 mL of acetic acid was refluxed for 5 h. The mixture was poured into water, basified with a 25% aq. ammonium hydroxide solution and extracted with DCM. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo. The resulting crude material was purified by CC using heptane/EtOAc from 85/15 to 0/100 as eluant to yield 633 mg of 3-(4,5-diphenyl-1H-imidazol-2-yl)-propionic acid methyl ester as a yellowish solid.

reactant | benzil | 1 g | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | methyl 4,4-dimethoxybutyrate | 1.01 g | COC(CCC(=O)OC)OC | C7H14O4
reactant | ammonium acetate | 2.87 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 23 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(4,5-diphenyl-1H-imidazol-2-yl)-propionic acid methyl ester | 633 mg | COC(CCC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18N2O2
